US08071766B2
To a solution of (S)-4-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-hydroxybutanamide (51 mg, 0.11 mmol) in DMA was added 6-methoxypyridine-2-boronic acid N-phenyldiethanolamine ester (130 mg, 0.44 mmol), Pd(dppf)2Cl2 (9 mg, 0.011 mmol), and 2N Na2CO3 (273 μL, 0.55 mmol). The resultant mixture was degassed with N2 for 5 min then heated in a sealed tube at 85° C. for 14 h. The reaction was allowed to cool to r.t. and filtered through a pad of Celite topped with anhydrous Na2SO4, rinsing with EtOAc and CH3OH. The filtrate was concentrated to provide a brown residue which was purified by preparative HPLC eluting with TFA/ACN/H2O. The solvent was removed on a rotary evaporator and the sample was dried under high vacuum to yield (S)-4-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-hydroxybutanamide (12.6 mg, 0.025 mmol). 1H NMR (400 MHz, MeOD) δ 1.76-1.93 (m, 1H), 2.16-2.35 (m, 1H), 2.80 (s, 3H), 3.18 (dd, J=16.80, 9.22 Hz, 1H), 3.32-3.42 (m, 1H), 3.90 (s, 3H), 4.10 (dd, J=8.72, 3.16 Hz, 1H), 4.13-4.31 (m, 2H), 5.07 (dd, J=9.09, 4.04 Hz, 1H), 6.79 (d, J=8.08 Hz, 1H), 7.12 (d, J=7.33 Hz, 1H), 7.15-7.28 (m, 2H), 7.66 (dd, J=8.59, 5.56 Hz, 1H), 7.71-7.83 (m, 1H). [M+H] calc'd for C24H26FN7O4, 496. found, 496.

reactant | (S)-4-((Z)—((R)-2-amino-7-(2-bromo-4-fluorophenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-hydroxybutanamide | 0.11 mmol, 51 mg | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OCC[C@@H](C(=O)N)O)C2=C(C=C(C=C2)F)Br)C | C18H20BrFN6O3
reactant | 6-methoxypyridine-2-boronic acid N-phenyldiethanolamine ester | 0.44 mmol, 130 mg | B1(OCCN(CCO1)C2=CC=CC=C2)C3=NC(=CC=C3)OC | C16H19BN2O3
reactant | Na2CO3 | 0.55 mmol, 2N, 273 μL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
catalyst | Pd(dppf)2Cl2 | 0.011 mmol, 9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-4-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-2-hydroxybutanamide | 0.025 mmol, 12.6 mg | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OCC[C@@H](C(=O)N)O)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C24H26FN7O4
